US06011159
To 6-bromo-1-cyclohexyl-3-ethyl-1H-indazole hydrobromide (0.890 g, 2.30 mmol) was added 1N aqueous sodium hydroxide (20 mL) and toluene (20 mL). The biphasic mixture was stirred for one hour and the layers separated. The aqueous layer was reextracted with toluene (10 mL), and the organic extracts were combined, dried over magnesium sulfate, and concentrated to provide 6-bromo-1-cyclohexyl-3ethyl-1H-indazole (0.660 g, 94% yield). 1H NMR (400 MHz, CDCl3) δ 1.35 (t, 3, J=7.7), 1.39-2.06 (m, 10), 2.95 (q, 2, J=7.7), 4.21-4.28 (m, 1), 7.15 (d, 1, J=8.5), 7.51 (d, 1, J=8.5), 7.56 (s, 1). 13C NMR (100 MHz, CDCl3) δ 13.95, 20.50, 25.35, 25.84, 32.44, 58.15, 112.01, 120.10, 121.37, 121.65, 122.82, 140.37, 146.60. IR 2934, 2855, 1606, 1502, 1451, 1048, 951, 834 cm1. Analysis calculated for C15H19BrN2 : C, 58.64; H, 6.23; N, 9.12. Found: C, 58.82; H, 6.20; N, 9.01.

reactant | 6-bromo-1-cyclohexyl-3-ethyl-1H-indazole hydrobromide | 2.30 mmol, 0.890 g | Br.BrC1=CC=C2C(=NN(C2=C1)C1CCCCC1)CC
reactant | sodium hydroxide | 1N, 20 mL | [OH-].[Na+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 6-bromo-1-cyclohexyl-3ethyl-1H-indazole | 0.660 g, 94% yield | BrC1=CC=C2C(=NN(C2=C1)C1CCCCC1)CC | C15H19BrN2
